US06313153B1
Synthesis of (E)-N-(2-hydroxyphenethyl)-3-(3-pyridyl)-2-propenoic acid amide (Compound 70)
Trans-3-(3-pyridyl)acrylic acid (22.35 g) and N,N′-carbonyldiimidazole (24.54 g) were dissolved in dimethylformamide (300 ml) and stirred at 40° C. for 40 minutes. Then, potassium carbonate (41.4 g) and 2-hydroxyphenethylamine hydrobromide (32.70 g) were added under room temperature and stirred for 1 hour. Insoluble materials were filtered out and the filtrate was concentrated under reduced pressure. Dilute hydrochloric acid was added to the residue under ice-cooling and stirring. The precipitated crystal was filtered out, washed with water, purified by silica gel column chromatography (chloroform:methanol=20:1) and then recrystallized in methanol to yield the titled compound (24.98 g, 62%).

reactant | Trans-3-(3-pyridyl)acrylic acid | 22.35 g | N1=CC(=CC=C1)/C=C/C(=O)O | C8H7NO2
reactant | potassium carbonate | 41.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-hydroxyphenethylamine hydrobromide | 32.70 g | Br.OC1=C(CCN)C=CC=C1
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | (E)-N-(2-hydroxyphenethyl)-3-(3-pyridyl)-2-propenoic acid amide | 24.98 g, 62% | OC1=C(CCNC(\C=C\C=2C=NC=CC2)=O)C=CC=C1 | C16H16N2O2
